US08937055B2
B) [4-(4-fluorophenyl)-2-(methylsulfanyl)pyrimidin-5-yl]methanol
To a solution of ethyl 4-(4-fluorophenyl)-2-(methylsulfanyl)pyrimidine-5-carboxylate (21.0 g) in toluene (500 mL) was added diisobutylaluminum hydride (15% toluene solution, 124 mL) at −78° C. The reaction mixture was stirred at −78° C. for 1.5 hr, and the reaction was quenched with acetic acid. The reaction mixture was extracted with ethyl acetate, and the extract was washed successively with saturated aqueous sodium carbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (10.3 g).

reactant | ethyl 4-(4-fluorophenyl)-2-(methylsulfanyl)pyrimidine-5-carboxylate | 21.0 g | FC1=CC=C(C=C1)C1=NC(=NC=C1C(=O)OCC)SC | C14H13FN2O2S
reactant | diisobutylaluminum hydride | 124 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
product | [4-(4-fluorophenyl)-2-(methylsulfanyl)pyrimidin-5-yl]methanol | 10.3 g | FC1=CC=C(C=C1)C1=NC(=NC=C1CO)SC | C12H11FN2OS
